*
.SUBCKT BF824 1 2 3
* housing parasitics
LB 2 22 1.25E-09
LE 3 33 1.12E-09
LC 1 11 0.23E-09
CBCG 22 11 6.2E-14
CBEG 22 33 4.5E-14
CCEG 11 33 6.2E-14
Q1 11 22 33 QBF824
*
.MODEL QBF824 PNP(
+     IS = 3.686E-16
+     NF = 0.9966
+     ISE = 2.604E-16
+     NE = 1.263
+     BF = 48.63
+     IKF = 0.081
+     VAF = 69
+     NR = 1.01
+     ISC = 9.693E-13
+     NC = 1.56
+     BR = 1.682
+     IKR = 0.1
+     VAR = 23
+     RB = 18
+     IRB = 3E-06
+     RBM = 2
+     RE = 0.4232
+     RC = 1.5
+     XTB = 0
+     EG = 1.11
+     XTI = 3
+     CJE = 1.99E-12
+     VJE = 0.7036
+     MJE = 0.2976
+     TF = 2.559E-10
+     XTF = 4.5
+     VTF = 6
+     ITF = 0.1
+     PTF = 0
+     CJC = 3.103E-12
+     VJC = 0.4209
+     MJC = 0.3358
+     XCJC = 0.0464
+     TR = 3E-08
+     CJS = 0
+     VJS = 0.75
+     MJS = 0.333
+     FC = 0.9506)
.ENDS
*