*
* BF485PN NPN/PNP High Voltage Transistors
*
.SUBCKT BF485PN 1 2 3 4 5 6
*
Q1 6 5 1 TR1
D1 5 6 DIODE
Q2 3 2 4 TR2
*
* The diode does not reflect a
* physical device but improves
* only modeling in the reverse
* mode of operation.
*
.MODEL TR1 NPN
+(
+ IS = 2.035E-14
+ NF = 0.9935
+ ISE = 3.978E-14
+ NE = 1.665
+ BF = 130
+ IKF = 0.014
+ VAF = 25
+ NR = 0.992
+ ISC = 1E-20
+ NC = 2
+ BR = 4
+ IKR = 0.05
+ VAR = 41
+ RB = 86.68
+ IRB = 4.751E-05
+ RBM = 0.01
+ RE = 0.1
+ RC = 1.121
+ XTB = 0
+ EG = 1.11
+ XTI = 3
+ CJE = 3.796E-11
+ VJE = 0.6157
+ MJE = 0.3244
+ TF = 1.15E-09
+ XTF = 37
+ VTF = 5
+ ITF = 0.06
+ PTF = 0
+ CJC = 4.4E-12
+ VJC = 0.2356
+ MJC = 0.3701
+ XCJC = 1
+ TR = 9E-07
+ CJS = 0
+ VJS = 0.75
+ MJS = 0.333
+ FC = 0.9
+)
.MODEL DIODE D
+(
+ IS = 1.5E-13
+ N = 1
+ BV = 1000
+ IBV = 1E-06
+ RS = 900
+ CJO = 0
+ VJ = 1
+ M = 0.5
+ FC = 0
+ TT = 0
+ EG = 1.11
+ XTI = 2
+)
.MODEL TR2 PNP
+(
+ IS = 1.737E-14
+ NF = 0.9934
+ ISE = 8.208E-15
+ NE = 1.559
+ BF = 141.4
+ IKF = 0.08
+ VAF = 350
+ NR = 0.9755
+ ISC = 2.097E-10
+ NC = 1.65
+ BR = 2.5
+ IKR = 0.06
+ VAR = 17
+ RB = 70
+ IRB = 5E-05
+ RBM = 0.3
+ RE = 0.418
+ RC = 2.5
+ XTB = 0
+ EG = 1.11
+ XTI = 3
+ CJE = 3.916E-11
+ VJE = 0.7361
+ MJE = 0.3612
+ TF = 1.356E-09
+ XTF = 19
+ VTF = 9
+ ITF = 0.2
+ PTF = 0
+ CJC = 1.071E-11
+ VJC = 0.726
+ MJC = 0.5717
+ XCJC = 0.413
+ TR = 3.3E-07
+ CJS = 0
+ VJS = 0.75
+ MJS = 0.333
+ FC = 0.999
+)
.ENDS
*